US07847245B2
Since dGTP is isomeric with ATP, it is not possible to definitively assign the ion peaks at m/z 505.99 in the mass spectrum of murine myocardium to either moiety. However, tandem MS spectra of the ion peak at m/z 505.99 and comparisons with tandem MS spectra of authentic dGTP and ATP allow definitive assignment of isomeric composition (FIG. 6(A-C)). The tandem spectra of ATP and dGTP are completely identical except for six diagnostic fragment peaks at m/z 134.01, 272.89, and 370.94 in FIG. 6(A) and at m/z 150.01, 274.94, and 354.93 in FIG. 6(B). Among these six signature peaks, fragment ion peaks at m/z 134.01 and 150.01 represent the adenine group and the guanine group that were generated from the fragmentation of the nucleotide moiety of ATP and dGTP, respectively. Tandem MS analyses of three standard mixtures, representing ratios of ATP to dGTP from 0.1:1 to 10:1, were prepared and analyzed by MALDI-tandem mass spectrometry (FIG. 7). Specifically, authentic ATP and authentic GTP were mixed at molar ratios of 10:1, 2:1, and 1:1. The spectrum at the bottom shows a sectional tandem MS spectrum of a metabolite from mouse heart extract with anion peak at m/z 505.99 that was extracted from 20 mg of mouse heart tissue using the M/C/H method. All the spectra were recorded on a 4800 MALDI-TOF/TOF analyzer in MS-MS negative ion mode using 9-aminoacridine as matrix with CID on, metastable suppressor on, and timed ion selector enabled. The voltages of source 1, collision cell, and collision cell off set are 8.0, 7.0, and −0.035 kV, respectively. The collision gas is air at medium pressure. The tandem mass spectrum was obtained by averaging 2000 consecutive laser shots (50 shots per subspectra and 40 subspectra). The results demonstrate that the isomeric ion peak area ratios of m/z 134.01-150.01 were equal to the molar ratios of ATP to dGTP within experimental error. These results substantiate the use of tandem mass spectral isomeric ratios in the assignment of the molar ratios of ATP/dGTP in a mixture. Based on this strategy, the molar ratio of ATP/dGTP in mouse heart extract was determined to be ˜25 by calculating the isomeric ion peak area ratios of m/z 134.01-150.01 in the tandem mass spectra of isomeric ion peaks at m/z 505.99 (the bottom of FIG. 7). These data suggest that the contribution of dGTP to the isomeric ion peak at m/z 505.99 was less than 5%. Using this strategy, it was found that the ion peaks at m/z 426.01 and 346.01 also result largely (>95%) from ADP and AMP, respectively.

reactant | dGTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O | C10H16N5O13P3
reactant | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | GTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O)O | C10H16N5O14P3
reactant | ATP dGTP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O.P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)O | 2C10H16N5O13P3
product | ADP | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H15N5O10P2
